US06380197B1
1.37 cm3 of N,N-di-n-propylamine are added to a suspension of 2.29 g of methyl 4-(bromomethyl)benzoate and 1.52 g of potassium carbonate in 40 cm3 of acetonitrile, at a temperature close to 20° C. The reaction mixture is heated under reflux for about 16 hours, and then after cooling to a temperature close to 20° C., it is filtered on sintered glass. The sintered glass is rinsed with 3 times 30 cm3 of ethyl acetate. The filtrate is concentrated to dryness under reduced pressure at a temperature close to 40° C. After dissolution of the residue in 100 cm3 of ethyl acetate, the organic phase is successively washed with 3 times 100 cm3 of distilled water, 100 cm3 of a saturated aqueous sodium chloride solution, dried over magnesium sulphate and concentrated to dryness under reduced pressure (about 1 kPa) at a temperature close to 40° C. 2.5 g of methyl 4-(N,N-di-n-propylaminomethylene)benzoate are thus obtained in the form of a yellow oil.

reactant | N,N-di-n-propylamine | 1.37 cm3 | C(CC)NCCC | C6H15N
reactant | methyl 4-(bromomethyl)benzoate | 2.29 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | potassium carbonate | 1.52 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 40 cm3 | C(C)#N | C2H3N
product | methyl 4-(N,N-di-n-propylaminomethylene)benzoate | 2.5 g | C(CC)N(CCC)C=C1CC=C(C(=O)OC)C=C1 | C15H23NO2
